US08278311B2
1,4,4a,6,7,8,9,9a-octahydro-5H-1,4-ethanobenzo[7]annulen-5-one
To a solution of (Z)-cyclohept-2-enone (1.4 g, 10 mmol) in dry toluene was added aluminum chloride (0.67 g, 5 mmol) and the resulting mixture was stirred at room temperature for 40 minutes. A solution of cyclohexadiene (9.62 g, 120 mmol) in toluene was added dropwise, and the mixture was stirred overnight at 40° C. The reaction mixture was filtered through diatomaceous earth and then partition in ethyl acetate/water. The organic layer was washed with sodium bicarbonate solution, dried (magnesium sulfate), filtered, evaporated under vacuum and purified by chromatography on silica gel eluting with 5-10% ether/hexane to provide the title compound: MS (DCl/NH3) m/z 191 (M+H)+, 208 (M+NH4)+.

reactant | (Z)-cyclohept-2-enone | 10 mmol, 1.4 g | C1(\C=C/CCCC1)=O | C7H10O
reactant | aluminum chloride | 5 mmol, 0.67 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | cyclohexadiene | 120 mmol, 9.62 g | C1=CC=CCC1 | C6H8
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,4,4a,6,7,8,9,9a-octahydro-5H-1,4-ethanobenzo[7]annulen-5-one | C12C=CC(C3C1CCCCC3=O)CC2 | C13H18O
